US20010046993A1
F. 1-[[1-[2-(1-Piperazinyl)ethyl]cyclopentyl]methyl]-2-pyrrolidinone
A mixture of 1-[[1-[2-(4-benzyl-1-piperazinyl)ethyl]cyclopentyl]methyl]-2-pyrrolidinone (408 mg) and palladium hydroxide (41 mg) in methanol (5.5 ml) was stirred under hydrogen (4 kg) for 7 hours. After hydrogen was replaced with nitrogen, the mixture was filtered through Celite. The filtrate was concentrated in vacuo to provide a yellow oil. (345 mg/100%)

reactant | 1-[[1-[2-(4-benzyl-1-piperazinyl)ethyl]cyclopentyl]methyl]-2-pyrrolidinone | 408 mg | C(C1=CC=CC=C1)N1CCN(CC1)CCC1(CCCC1)CN1C(CCC1)=O | C23H35N3O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5.5 ml | CO | CH4O
catalyst | palladium hydroxide | 41 mg | [OH-].[Pd+2].[OH-]
product | 1-[[1-[2-(1-Piperazinyl)ethyl]cyclopentyl]methyl]-2-pyrrolidinone | N1(CCNCC1)CCC1(CCCC1)CN1C(CCC1)=O | C16H29N3O
